US07560544B2
Step 1: Preparation of 5-Amino-3-pyridin-3-ylmethyl-3H-thiazolo[4,5-d]pyrimidin-2-one (54)
5-Amino-3H-thiazolo[4,5-d]pyrimidin-2-one (107 mg, 0.64 mmol) was dissolved in DMF (4 mL) at ambient temperature. Sodium hydride (30 mg, 1.32 mmol) was added and the mixture was heated to 30° C. Stirring was continued for 0.5 h before 3-bromomethyl-pyridine hydrobromide (179 mg, 0.71 mmol) was added. The mixture was then heated to 75° C. and allowed to stir for 4 h. Upon completion, the reaction was allowed to cool to room temperature, then concentrated. Water (12 mL) was added. The resulting mixture was diluted with H2O (12 mL), then extracted with ethyl acetate (3×5 mL). The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated. The crude material was purified by column chromatography (SiO2, 20-50% EtOAc—CH2Cl2) to generate 90 mg (54%) of 54 as a white solid: 1H NMR (400 MHz, DMSO-d6) δ 8.59 (s, 1H), 8.48 (d, J=3.6, 1H), 8.32 (s, 1H), 7.71 (d, J=8.4, 1H), 7.36 (m, 1H), 6.86 (s, 2H), 5.04 (s, 2H); [M+H]+ 260.1.

reactant | 5-Amino-3H-thiazolo[4,5-d]pyrimidin-2-one | 0.64 mmol, 107 mg | NC=1N=CC2=C(N1)NC(S2)=O | C5H4N4OS
reactant | Sodium hydride | 1.32 mmol, 30 mg | [H-].[Na+]
reactant | 3-bromomethyl-pyridine hydrobromide | 0.71 mmol, 179 mg | Br.BrCC=1C=NC=CC1
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 5-Amino-3-pyridin-3-ylmethyl-3H-thiazolo[4,5-d]pyrimidin-2-one | NC=1N=CC2=C(N1)N(C(S2)=O)CC=2C=NC=CC2 | C11H9N5OS
